US03992356
Preparation of a copolymer of vinyloxycarbonylmethyl salicylate/vinyl stearate (Process 2).
Into a 25 ml flask provided with a condenser, a nitrogen lead in tube and an agitator, there are introduced 2 g of vinyloxycarbonylmethyl salicylate, 1 g of vinyl stearate and 0.3 g of azobis-isobutyronitrile and6 ml of acetone.

reactant | nitrogen lead | [Pb].[N]
reactant | vinyloxycarbonylmethyl salicylate | 2 g | C(C=1C(O)=CC=CC1)(=O)OCC(=O)OC=C | C11H10O5
reactant | vinyl stearate | 1 g | C(CCCCCCCCCCCCCCCCC)(=O)OC=C | C20H38O2
reactant | azobis-isobutyronitrile | 0.3 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | acetone | CC(=O)C | C3H6O
product | vinyloxycarbonylmethyl salicylate vinyl stearate | C(C=1C(O)=CC=CC1)(=O)OCC(=O)OC=C.C(CCCCCCCCCCCCCCCCC)(=O)OC=C | InChI=1S/C20H38O2.C11H10O5/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20(21)22-4-2;1-2-15-10(13)7-16-11(14)8-5-3-4-6-9(8)12/h4H,2-3,5-19H2,1H3;2-6,12H,1,7H2
